Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
C[O:1][c:2]1[cH:3][c:4]([O:5][c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[cH:12][c:13]([CH3:14])[c:15]1[CH:16]=[O:17]>>[OH:1][c:2]1[cH:3][c:4]([O:5][c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[cH:12][c:13]([CH3:14])[c:15]1[CH:16]=[O:17],[CH3:101][O:1][c:2]1[cH:3][c:4]([O:5][c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[cH:12][c:13]([CH3:14])[c:15]1[CH:16]=[O:17].Br[B:301](Br)[Br:302].[OH2:303]>>[OH:1][c:2]1[cH:3][c:4]([O:5][c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[cH:12][c:13]([CH3:14])[c:15]1[CH:16]=[O:17],O_demethylation,"[(1, 301), ([301, 302], 302), (302, 101), ([101, 1], 1), (303, 301), ([301, 1], 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[c:1]1[c:2]([N+:3](=[O:4])[O-:5])[cH:6][n:7][cH:8][cH:9]1.[CH2:10]1[CH2:11][CH2:12][NH:13][CH2:14]1>>[c:1]1([N:13]2[CH2:12][CH2:11][CH2:10][CH2:14]2)[c:2]([N+:3](=[O:4])[O-:5])[cH:6][n:7][cH:8][cH:9]1,[Cl:101][c:1]1[c:2]([N+:3](=[O:4])[OH:5])[cH:6][n:7][cH:8][cH:9]1.[CH2:10]1[CH2:11][CH2:12][NH:13][CH2:14]1>>[c:1]1([N:13]2[CH2:12][CH2:11][CH2:10][CH2:14]2)[c:2]([N+:3](=[O:4])[OH:5])[cH:6][n:7][cH:8][cH:9]1,SNAr(ortho),"[(13, 1), ([1, 2], [2, 3]), ([3, 4], 4), (4, [4, 3]), ([3, 2], [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[O:2]=[C:1](OC(=O)C(F)(F)F)[C:3]([F:4])([F:5])[F:6].[CH3:7][O:8][C:9](=[O:10])[c:11]1[cH:12][c:13]([F:14])[cH:15][c:16]([NH2:17])[c:18]1[Br:19]>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[NH:17][c:16]1[cH:15][c:13]([F:14])[cH:12][c:11]([C:9]([O:8][CH3:7])=[O:10])[c:18]1[Br:19],O=C([O:101][C:1](=[O:2])[C:3]([F:4])([F:5])[F:6])C(F)(F)F.[CH3:7][O:8][C:9](=[O:10])[c:11]1[cH:12][c:13]([F:14])[cH:15][c:16]([NH2:17])[c:18]1[Br:19]>>[C:1](=[O:2])([C:3]([F:4])([F:5])[F:6])[NH:17][c:16]1[cH:15][c:13]([F:14])[cH:12][c:11]([C:9]([O:8][CH3:7])=[O:10])[c:18]1[Br:19],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(17, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[C:1]([c:2]1[c:3]2[cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9][c:10]2[o:11][c:12](=[O:13])[cH:14]1)[CH3:15].[NH2:16][NH2:17]>>[C:1]([c:2]1[c:3]2[cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9][c:10]2[o:11][c:12](=[O:13])[cH:14]1)([CH3:15])=[N:16][NH2:17],[O:101]=[C:1]([c:2]1[c:3]2[cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9][c:10]2[o:11][c:12](=[O:13])[cH:14]1)[CH3:15].[NH2:16][NH2:17].[H+:301]>>[C:1]([c:2]1[c:3]2[cH:4][cH:5][c:6]([O:7][CH3:8])[cH:9][c:10]2[o:11][c:12](=[O:13])[cH:14]1)([CH3:15])=[N:16][NH2:17],imine_formation,"[(16, 1), ([1, 101], 301), (101, 16.1), ([16.1, 16], 16), (16, [16, 1]), ([1, 101], 101), ([16.1, 16], 16)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([Cl:8])[cH:9]1.[CH3:10][C@@H:11]1[NH:12][C:13](=[O:14])[CH2:15][C@:16]1([CH3:17])[OH:18]>>[c:1]1([N:12]2[C@@H:11]([CH3:10])[C@@:16]([CH3:17])([OH:18])[CH2:15][C:13]2=[O:14])[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([Cl:8])[cH:9]1,[Br:101][c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([Cl:8])[cH:9]1.[CH3:10][C@@H:11]1[NH:12][C:13](=[O:14])[CH2:15][C@:16]1([CH3:17])[OH:18]>>[c:1]1([N:12]2[C@@H:11]([CH3:10])[C@@:16]([CH3:17])([OH:18])[CH2:15][C:13]2=[O:14])[cH:2][cH:3][c:4]([C:5]#[N:6])[c:7]([Cl:8])[cH:9]1,SNAr(para),"[(12, 1), ([1, 9], [9, 7]), ([7, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 7]), ([7, 9], [9, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O=[CH:1][c:2]1[nH:3][c:4]([CH3:5])[c:6]([C:7](=[O:8])[N:9]2[CH2:15][CH2:14][N:12]([CH3:13])[CH2:11][CH2:10]2)[c:16]1[CH3:17].[O:18]=[C:19]1[CH2:20][c:21]2[c:22]([n:23][cH:24][n:25][c:26]2[NH:27][c:28]2[cH:29][cH:30][c:31]([F:32])[c:33]([Cl:34])[cH:35]2)[NH:36]1>>[CH:1]([c:2]1[nH:3][c:4]([CH3:5])[c:6]([C:7](=[O:8])[N:9]2[CH2:10][CH2:11][N:12]([CH3:13])[CH2:14][CH2:15]2)[c:16]1[CH3:17])=[C:20]1[C:19](=[O:18])[NH:36][c:22]2[c:21]1[c:26]([NH:27][c:28]1[cH:29][cH:30][c:31]([F:32])[c:33]([Cl:34])[cH:35]1)[n:25][cH:24][n:23]2,[O:18]=[C:19]1[CH2:20][c:21]2[c:22]([n:23][cH:24][n:25][c:26]2[NH:27][c:28]2[cH:29][cH:30][c:31]([F:32])[c:33]([Cl:34])[cH:35]2)[NH:36]1.[O:101]=[CH:1][c:2]1[nH:3][c:4]([CH3:5])[c:6]([C:7](=[O:8])[N:9]2[CH2:10][CH2:11][N:12]([CH3:13])[CH2:14][CH2:15]2)[c:16]1[CH3:17].[OH-:301]>>[CH:1]([c:2]1[nH:3][c:4]([CH3:5])[c:6]([C:7](=[O:8])[N:9]2[CH2:10][CH2:11][N:12]([CH3:13])[CH2:14][CH2:15]2)[c:16]1[CH3:17])=[C:20]1[C:19](=[O:18])[NH:36][c:22]2[c:21]1[c:26]([NH:27][c:28]1[cH:29][cH:30][c:31]([F:32])[c:33]([Cl:34])[cH:35]1)[n:25][cH:24][n:23]2,aldol_condensation,"[(301, 20.1), ([20.1, 20], [20, 19]), ([19, 18], 18), (18, [18, 19]), ([19, 20], 1), ([1, 101], 101), (101, 301.1), ([301.1, 301], 301), (301, 20.1), ([20.1, 20], [20, 19]), ([19, 18], 18), (18, [18, 19]), ([19, 20], [20, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
